* source ROZNICZKUJACY
V_V1         IN 0  
+PULSE -2 2 0 0.1667m 0.1667m 0.0000001p 0.3334m+0.0000001p
X_U6         N09876 N01239 N06620 N06622 OUT TL061/301/TI
R_R1         IN N12517  1k  
V_V2         N06620 0 15Vdc
C_C         N12517 N01239  6.8n  
V_V3         0 N06622 15Vdc
R_R         N01239 OUT  9.1k  
R_R3         0 N09876  1k  
